US08609653B2
7-fluorochroman
7-Fluoro-2H-chromene (4.17 g, 27.8 mmol) and Pd/C (500 mg, 10 wt %) in ethyl acetate (70 mL) was stirred under hydrogen at 60 psi for 6 hours. The reaction was filtered through a pad of Celite™ and concentrated under reduced pressure to give the desired product as the major regioisomer in a 3:1 mixture of regioisomers as a yellow oil. This material was used without further purification in the next step. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm=6.97 (t, J=7.5 Hz, 1 H), 6.57-6.49 (m, 1 H), 4.21-4.16 (m, 2 H), 2.76 (t, J=6.4 Hz, 2 H), 2.05-1.98 (m, 2 H); LCMS (m/z) ES+=152 (M+).

reactant | 7-Fluoro-2H-chromene | 27.8 mmol, 4.17 g | FC1=CC=C2C=CCOC2=C1 | C9H7FO
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 7-fluorochroman | FC1=CC=C2CCCOC2=C1 | C9H9FO
